US05808115
Anhydrous hydrogen peroxide (98%) and carbodiimides were used in acidic ethyl acetate, an aprotic solvent, to epoxidize two arenes, phenanthrene and pyrene, but only in about 3% yield, based on the initial amount of the arene (Hamilton et al., Tet. Lett, 1977, 16, 1369). For example, phenanthrene (4 mmol), diisopropylcarbodiimide (8 mmol), 98% hydrogen peroxide (16 mmol), and acetic acid (8 mmol) were reacted in ethyl acetate. The yield of phenanthrene 9, 10-oxide was 28% based on the amount of reacted phenanthrene and 2.9% based on the amount of phenanthrene initially present. A reaction of pyrene under similar conditions yielded pyrene 4,5-oxide in 27% yield, based on the amount of reacted pyrene; the yield based on the amount of pyrene initially present was not stated. These researchers state that, "Control experiments indicate that all four components (arene, carbodiimide, H2O2, and acid) are required for the reaction." They also state that approximately the same yield of oxide is formed from these arenes when 30% hydrogen peroxide, and a four-fold increase in the carbodiimide concentration, are used instead of 98% hydrogen peroxide. The authors also speculate that, "In addition to its use in arene oxide synthesis, the carbodiimide-H2O2 system may be useful for simple alkene epoxidations under mild conditions," and make reference to three earlier articles. Two of the references cited by the authors, however, refer to systems using reagents other than carbodiimides to effect epoxidation of olefins. One reference cited (Rebek, J., Jr. et al., J. Chem. Soc. Chem. Commun., 1974, 711) reports that substituted peroxycarbamic acids, generated in situ from anhydrous hydrogen peroxide and carbonyldiimidazole, can be used to epoxidize olefins. A second reference cited (Matsumura et al. Tet. Lett. 1970, 2029.) reports that reaction of an isocyanate and hydrogen peroxide, in the presence of an olefin, leads to epoxidation of olefins.

reactant | hydrogen peroxide | OO | H2O2
reactant | phenanthrene | C1=CC=CC=2C3=CC=CC=C3C=CC12 | C14H10
reactant | pyrene | C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H10
reactant | phenanthrene | 4 mmol | C1=CC=CC=2C3=CC=CC=C3C=CC12 | C14H10
reactant | diisopropylcarbodiimide | 8 mmol | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | hydrogen peroxide | 16 mmol | OO | H2O2
reactant | acetic acid | 8 mmol | C(C)(=O)O | C2H4O2
reactant | phenanthrene 9, 10-oxide | C1=CC=C2C(=C1)C3C(O3)C4=CC=CC=C42 | C14H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | pyrene 4,5-oxide | 27% yield | C1=CC2=C3C(=C1)C4C(O4)C5=CC=CC(=C53)C=C2 | C16H10O
